US07888364B2
500 mg of methyl 4-(bromomethyl)benzoate was reacted with 480 mg of tert-butyl 3-oxopiperazine-1-carboxylate and 1 g of Cesium Carbonate in 9 mL of DMF at 45° C. Upon completion, the reaction was extracted in Ethyl Acetate 2 times saturated bicarbonate, dried over Magnesium Sulfate, filtered and concentrated to give tert-butyl 4-(4-(methoxycarbonyl)benzyl)-3-oxopiperazine-1-carboxylate. 613 mg of tert-butyl 4-(4-(methoxycarbonyl)benzyl)-3-oxopiperazine-1-carboxylate was hydrolyzed via Procedure M to give 4-((4-(tert-butoxycarbonyl)-2-oxopiperazin-1-yl)methyl)benzoic acid. 200 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-((4-(tert-butoxycarbonyl)-2-oxopiperazin-1-yl)methyl)benzoic acid via Procedure G. The crude product was extracted twice with saturated bicarbonate in Ethyl Acetate, dried over Magnesium Sulfate, filtered and concentrated to give crude tert-butyl 4-(4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzyl)-3-oxopiperazine-1-carboxylate. 4N HCl was subsequently added to crude tert-butyl 4-(4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzyl)-3-oxopiperazine-1-carboxylate and concentrated to give the HCl salt of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-oxopiperazin-1-yl)methyl)benzamide. The reaction was purified by reverse phase HPLC to give pure N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-oxopiperazin-1-yl)methyl)benzamide. MS (Q1) 421.3 (M)+.

reactant | methyl 4-(bromomethyl)benzoate | 500 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 480 mg | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | Cesium Carbonate | 1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-(methoxycarbonyl)benzyl)-3-oxopiperazine-1-carboxylate | COC(=O)C1=CC=C(CN2C(CN(CC2)C(=O)OC(C)(C)C)=O)C=C1 | C18H24N2O5
